US04613619
A mixture of (3-cyclopenten-1-yl)(4'-methoxy-[1,1'-biphenyl]-4-yl)-methanone (30 g), hydrazine hydrate (36 ml) and potassium hydroxide (36 g) in 2,2'-oxybisethanol (250 ml) was heated gently, at reflux temperature for 45 min. The low boiling material was distilled off and the mixture was heated under reflux, at 200° C. for 2 h. The cooled reaction mixture was poured into water, acidified with dilute hydrochloric acid and the resulting light brown precipitate was filtered off. This solid was dissolved in methylene dichloride. The solution was washed twice with water and dried (MgSO4), and the solvent was removed. Trituration of the residue with light petroleum gave 4-(3-cyclopenten-1-ylmethyl)-4'-hydroxy-1,1'-biphenyl as a buff solid (25.5 g). A small sample, recrystallised from ether-light petroleum had m.p. 138°-140° C.

reactant | (3-cyclopenten-1-yl)(4'-methoxy-[1,1'-biphenyl]-4-yl)-methanone | 30 g | C1(CC=CC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C19H18O2
reactant | hydrazine hydrate | 36 ml | O.NN
reactant | potassium hydroxide | 36 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | 2,2'-oxybisethanol | 250 ml | O(CCO)CCO | C4H10O3
solvent | water | O | H2O
product | 4-(3-cyclopenten-1-ylmethyl)-4'-hydroxy-1,1'-biphenyl | C1(CC=CC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H18O
